US07834008B2
1-(tert-butoxycarbonyl)-4-isocyanato-4-phenyl-piperidine
Triethylamine (5.02 mL, 36.1 mmol) and diphenylhosphoryl azide (4.24 mL, 19.7 mmol) are added to a solution of 1-(tert-butoxycarbonyl)-4-phenyl-4-piperidinecarboxylic acid (5.0 g, 16.4 mmol) in dry DMF (50 mL) under nitrogen at ambient temperature. The mixture is stirred at ambient temperature for 2 h, and then heated to 60° C. for 3 h. The mixture is slightly cooled and concentrated in vacuo. Water (75 mL) is added to the remanence followed by extraction with ethyl acetate (2×75 mL). Combined organic fractions are washed with brine (3×50 mL), dried (MgSO4) and evaporated to dryness. The crude mixture is purified by silica gel chromatography eluting with ethyl acetate-heptane (1:4). This furnishes 4.8 g (98%) of the wanted 1-(tert-butoxycarbonyl)-4-isocyanato-4-phenyl-piperidine as a clear oil. LC/MS (m/z) 203.2 (M-boc+H+); tR=3.64 min. 1H NMR (CDCl3) 1.49 (s, 9H); 1.92 (bd, 2H); 2.02 (dt, 2H); 3.15 (bt, 2H); 4.17 (bs, 2H); 7.26 (dd, 1H); 7.39 (dt, 2H); 7.44 (dd, 2H).

reactant | Triethylamine | 36.1 mmol, 5.02 mL | C(C)N(CC)CC | C6H15N
reactant | azide | 19.7 mmol, 4.24 mL | [N-]=[N+]=[N-]
reactant | 1-(tert-butoxycarbonyl)-4-phenyl-4-piperidinecarboxylic acid | 16.4 mmol, 5.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)O)C1=CC=CC=C1 | C17H23NO4
reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 1-(tert-butoxycarbonyl)-4-isocyanato-4-phenyl-piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=CC=C1)N=C=O | C17H22N2O3
